US08314098B2
(Step 1): 5-(2-Phenoxy-ethoxy)-2H-pyrazol-3-yl-amine
There was suspended, in 2-phenoxy ethanol (25 g, 180 mM), 5-amino-1H-pyrazol-3-ol (4.00 g, 41.4 mM), then p-toluenesulfonic acid monohydrate (15.4 g, 80.8 mM) was added to the suspension and the mixture was stirred at 130° C. for 5 hours under reduced pressure. This reaction liquid was diluted with acetonitrile, the solid precipitated out of the liquid was filtered off and washed with acetonitrile. The resulting solid was suspended in a 6% aqueous sodium bicarbonate solution (250 mL), the suspension was stirred at room temperature and the solid was then filtered off. The resulting solid was dissolved in ethyl acetate, dried over anhydrous sodium sulfate and then the solvent was distilled off to thus give the title compound (2.90 g, yield: 33%).

reactant | 5-amino-1H-pyrazol-3-ol | 41.4 mM, 4.00 g | NC1=CC(=NN1)O | C3H5N3O
reactant | p-toluenesulfonic acid monohydrate | 80.8 mM, 15.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-phenoxy ethanol | 180 mM, 25 g | O(C1=CC=CC=C1)CCO | C8H10O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(2-Phenoxy-ethoxy)-2H-pyrazol-3-yl-amine | 2.90 g, yield: 33% | O(C1=CC=CC=C1)CCOC=1C=C(NN1)N | C11H13N3O2
